US08034812B2
Production of N-{6-[(5-bromopyridin-3-yl)oxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide
To a solution of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (1.7 g, 5.0 mmol) in N,N-dimethylformamide (20 mL) were added 5-bromopyridine-3-ol (1.7 g, 10 mmol) and potassium carbonate (1.7 g, 13 mmol), and the mixture was stirred at 140° C. for 8 hr. After cooling the mixture to room temperature, the mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with 5% aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0), and precipitated from ethyl acetate/diisopropyl ether to give the title compound (1.6 g, 85%) as a yellow powder.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 5.0 mmol, 1.7 g | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 5-bromopyridine-3-ol | 10 mmol, 1.7 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | potassium carbonate | 13 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{6-[(5-bromopyridin-3-yl)oxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 1.6 g, 85% | BrC=1C=C(C=NC1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C15H12BrN5O2
